US09034907B2
3-[3-(1H-imidazol-1-yl)propyl]-2-thioxo-2,3,6,7,8,9-hexahydro[1]benzo-thieno[2,3-d]pyrimidin-4(1H)-one
The compound was synthesized starting from ethyl 4,5,6,7-tetrahydro-2-isothiocyanatobenzo[b]thiophene-3-carboxylate (1.09 g, 4.0 mmol) and 3-(1H-imidazol-1-yl)propan-1-amine (0.5 g, 4.0 mmol) as described above.

reactant | ethyl 4,5,6,7-tetrahydro-2-isothiocyanatobenzo[b]thiophene-3-carboxylate | 4.0 mmol, 1.09 g | N(=C=S)C1=C(C2=C(S1)CCCC2)C(=O)OCC | C12H13NO2S2
reactant | 3-(1H-imidazol-1-yl)propan-1-amine | 4.0 mmol, 0.5 g | N1(C=NC=C1)CCCN | C6H11N3
product | 3-[3-(1H-imidazol-1-yl)propyl]-2-thioxo-2,3,6,7,8,9-hexahydro[1]benzo-thieno[2,3-d]pyrimidin-4(1H)-one | N1(C=NC=C1)CCCN1C(NC2=C(C1=O)C1=C(S2)CCCC1)=S | C16H18N4OS2
